US07087599B2
Aluminum chloride (1.16 g, 8.72 mmol) was added to a stirred mixture of 1-chloro-3-fluoro-2-methoxybenzene (1.00 mL, 8.72 mmol) and hexanoyl chloride (1.47 mL, 10.46 mmol) at room temperature. The mixture warmed and HCl evolution occurred. The resulting mixture was stirred at room temperature for 67 hours and then partitioned between EtOAc (40 mL) and ice cold water (40 mL). The EtOAc layer was washed with brine (30 mL), dried over MgSO4, filtered, and evaporated under vacuum to yield crude 1-(3-chloro-5-fluoro-4-methoxyphenyl)-1-hexanone as an oil.

reactant | Aluminum chloride | 8.72 mmol, 1.16 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-chloro-3-fluoro-2-methoxybenzene | 8.72 mmol, 1.00 mL | ClC1=C(C(=CC=C1)F)OC | C7H6ClFO
reactant | hexanoyl chloride | 10.46 mmol, 1.47 mL | C(CCCCC)(=O)Cl | C6H11ClO
reactant | HCl | Cl | ClH
product | 1-(3-chloro-5-fluoro-4-methoxyphenyl)-1-hexanone | ClC=1C=C(C=C(C1OC)F)C(CCCCC)=O | C13H16ClFO2
